US06573293B2
4-Methyl-5-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid
Oxindole (133 mg, 1 mmol) was condensed with 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid (153 mg) using method D to give 268 mg (100%) of the title compound as an orange-red solid.

reactant | Oxindole | 1 mmol, 133 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid | 153 mg | C(=O)C1=C(C=C(N1)C(=O)O)C | C7H7NO3
product | 4-Methyl-5-(2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic Acid | 268 mg, 100% | CC=1C=C(NC1C=C1C(NC2=CC=CC=C12)=O)C(=O)O | C15H12N2O3
